US07915261B2
A DMF (15 ml) solution of 3-{2-[1-(tert-butoxycarbonyl)-4-piperidinyl]ethyl]benzoic acid (1.25 g), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (863 mg) and 1-hydroxybenzotriazole (608 mg) was stirred at room temperature for 1 hour, and then a TEA (1.6 ml) solution of 2-bromoethylamine hydrobromide (2.30 g) was added thereto, followed by stirring overnight. Aqueous saturated sodium hydrogencarbonate solution was added to the reaction liquid, followed by extraction with EtOAc, then washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated to obtain a crude product of tert-butyl 4-[2-(3-{[(2-bromoethyl)amino]carbonyl}phenyl)ethyl]piperidine-1-carboxylate.

reactant | 3-{2-[1-(tert-butoxycarbonyl)-4-piperidinyl]ethyl]benzoic acid | 1.25 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC=1C=C(C(=O)O)C=CC1 | C19H27NO4
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 863 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 608 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2-bromoethylamine hydrobromide | 2.30 g | Br.BrCCN
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | tert-butyl 4-[2-(3-{[(2-bromoethyl)amino]carbonyl}phenyl)ethyl]piperidine-1-carboxylate | BrCCNC(=O)C=1C=C(C=CC1)CCC1CCN(CC1)C(=O)OC(C)(C)C | C21H31BrN2O3
